US09337430B2
5-Biphenyl-4-yl-2-phenyl-6(5H)-phenanthridinone
16 g (0.039 mol) of 5-biphenyl-4-yl-2-phenyl-5,6-dihydrophenanthridine are dissolved in 300 ml of dichloromethane. and 62.13 g (0.393 mol) of potassium permanganate are added in portions to this solution, and the mixture is stirred at room temperature for two days. After this time, the remaining potassium permanganate is filtered off, the solution is evaporated and purified by chromatography (eluent: heptane/dichloromethane, 5:1). The residue is recrystallised from n-heptane. The yield is 14 g (88%).

reactant | 5-biphenyl-4-yl-2-phenyl-5,6-dihydrophenanthridine | 0.039 mol, 16 g | C1(=CC=C(C=C1)N1C=2C=CC(=CC2C2=CC=CC=C2C1)C1=CC=CC=C1)C1=CC=CC=C1 | C31H23N
reactant | potassium permanganate | 0.393 mol, 62.13 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 5-Biphenyl-4-yl-2-phenyl-6(5H)-phenanthridinone | C1(=CC=C(C=C1)N1C=2C=CC(=CC2C2=CC=CC=C2C1=O)C1=CC=CC=C1)C1=CC=CC=C1 | C31H21NO
